US04251543
To a mixture of 10.2 g of magnesium turnigns, 300 ml of tetrahydrofuran and a few pieces of iodine, was added 3.8 g of 1,2-dibromoethane with stirring under a stream of nitrogen. Additionally, a solution of 93.0 g of 2-(p-bromophenyl)-2-methyl-1,3-dioxolane dissolved in 300 ml of tetrahydrofuran was dropped while keeping the temperature at 50°-55° C. After dropping, the reaction mixture was stirred for 30 minutes, and cooled to room temperature. A solution of 66.0 g of prenyl bromide in 100 ml of tetrahydrofuran was then dropped to the reaction mixture while keeping the reaction temperature at 50°-55° C., which was allowed to stand for overnight at room temperature. A solution of 20 g of ammonium chloride in 50 ml of water was added. The organic layer was decanted, concentrated and dissolved in ethyl ether. The ethereal solution was washed with water, dried, concentrated and distilled to give 69.1 g of 2-methyl-2-(p-prenylphenyl)-1,3-dioxolane, b.p. 106-107 °C/0.10 mmHg.

reactant | magnesium | 10.2 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2-(p-bromophenyl)-2-methyl-1,3-dioxolane | 93.0 g | BrC1=CC=C(C=C1)C1(OCCO1)C | C10H11BrO2
reactant | prenyl bromide | 66.0 g | C(C=C(C)C)Br | C5H9Br
reactant | ammonium chloride | 20 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
catalyst | 1,2-dibromoethane | 3.8 g | BrCCBr | C2H4Br2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-methyl-2-(p-prenylphenyl)-1,3-dioxolane | 69.1 g | CC1(OCCO1)C1=CC=C(C=C1)CC=C(C)C | C15H20O2
